data/mechanisms/records/IMS4-EQ4.41.json
{"mechanism_id": "IMS4-EQ4.41", "species": [{"species_id": "methyl_salicylate_radical_cation", "mapped_smiles": "[1H:1][O:2][c:3]1[cH:4][cH:5][cH:6][cH:7][c:8]1[C:9](=[O:10])[O+:11][CH3:12]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ortho_effect_rH_intermediate", "mapped_smiles": "[O:2][c:3]1[cH:4][cH:5][cH:6][cH:7][c:8]1[C:9](=[O:10])[O+:11]([1H:1])[CH3:12]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ortho_oxidoaryl_acylium_distonic_ion", "mapped_smiles": "[O:2][c:3]1[cH:4][cH:5][cH:6][cH:7][c:8]1[C:9]#[O+:10]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methanol_neutral_loss", "mapped_smiles": "[O:11]([1H:1])[CH3:12]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_salicylate_radical_cation"]}, {"state_id": "state_intermediate", "species_ids": ["ortho_effect_rH_intermediate"]}, {"state_id": "state_products", "species_ids": ["ortho_oxidoaryl_acylium_distonic_ion", "methanol_neutral_loss"]}], "steps": [{"step_id": "step_rH", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 11]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [11]}, "target": {"type": "bond", "atom_maps": [1, 11]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_elimination", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [9, 11]}, "target": {"type": "lone_pair", "atom_maps": [11]}, "electron_count": 2}, {"source": {"type": "lone_pair", "atom_maps": [10]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH", "support_type": "textbook_proposed", "locator": {"page": 78, "equation": "4.41", "figure": null, "panel": null, "section": "4.9"}, "confidence": 0.8, "curator_note": "Ortho-effect hydrogen rearrangement (rH): the alkoxy O+. abstracts the ortho Y-H through a six-membered transition state, transferring H to oxygen and leaving the radical on Y. Book draws 2 arc(s); moves 1,2 are drawn (one electron of the Y-H bond to Y giving the radical site, and the other Y-H electron carrying the migrating H toward the alkoxy O+.), move 3 is an implicit homolysis hook (the O+. odd electron pairing into the new O-H bond) required for electron balance (not drawn on the page). The migrating hydrogen (map 1) is written as [1H] - ordinary protium with its isotope pinned, NOT deuterium - solely so RDKit's default parser retains it as a mapped atom (a plain mapped [H] is stripped by removeHs), letting the O-H and new O-H bond changes be bookkept."}, {"evidence_id": "evidence_step_elimination", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_elimination", "support_type": "textbook_proposed", "locator": {"page": 78, "equation": "4.41", "figure": null, "panel": null, "section": "4.9"}, "confidence": 0.8, "curator_note": "Inductive loss of HOR (labelled 'i' beside the -HOR arrow): the protonated ester C-O(alkyl) bond breaks heterolytically and the acylium C#O+ forms. Book draws 1 arc(s); move 1 is drawn (full double-barbed arrow moving the C-O(ester) bond pair onto the protonated alkoxy oxygen, expelling neutral HOR), move 2 is an implicit arc (carbonyl-oxygen lone pair forming the third bond of the C#O+ acylium) required for electron balance (not drawn on the page)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 152.0462, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_distonic_acylium", "species_id": "ortho_oxidoaryl_acylium_distonic_ion", "step_id": "step_elimination", "observed_mz": 120.02, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
